US07115645B2
b) 5-Methoxy-2-nitrophenyl-o-tolylamine
1 g of 5-chloro-2-nitrophenyl-o-tolylamine was added to a solution of 1 g of sodium in 20 ml of methanol, and it was refluxed for 72 hours. Then, it is cooled to 0° C., and the crystalline product is suctioned off.

reactant | 5-chloro-2-nitrophenyl-o-tolylamine | 1 g | ClC=1C=CC(=C(C1)NC1=C(C=CC=C1)C)[N+](=O)[O-] | C13H11ClN2O2
reactant | sodium | 1 g | [Na] | Na
reactant | methanol | 20 ml | CO | CH4O
product | 5-Methoxy-2-nitrophenyl-o-tolylamine | COC=1C=CC(=C(C1)NC1=C(C=CC=C1)C)[N+](=O)[O-] | C14H14N2O3
